US07030141B2
To 4′-Amino-3′-fluoro-biphenyl-2-sulfonic acid tert-butylamide (5.000 g, 15.51 mmoles) at room temperature in ethyl acetate (50 ml) was added saturated sodium bicarbonate, aqueous, 50 ml and then 2-methyl-acryloyl chloride (1.25 equiv.). Stirred for 2 hours then added a further 1 ml of the acid chloride. After 2 hours an aliquot showed product by NMR. Product seems to co-run with starting material. Extracted into ethyl acetate, washed with brine, dried MgSO4, and then concentrated in vacuo. Collected some crystalline product from ethyl acetate hexane, 0.48 g. Columned mother liquor to afford product. Combined with previously crystallized fraction to afford N-(2′-tert-Butylsulfamoyl-3-fluoro-biphenyl-4-yl)-2-methyl-acrylamide (4.520 g). APCI (AP+): 391 (M+H)+.

reactant | 4′-Amino-3′-fluoro-biphenyl-2-sulfonic acid tert-butylamide | 15.51 mmoles, 5.000 g | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)N)F | C16H19FN2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-methyl-acryloyl chloride | 1.25 equiv. | CC(C(=O)Cl)=C | C4H5ClO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2′-tert-Butylsulfamoyl-3-fluoro-biphenyl-4-yl)-2-methyl-acrylamide | 4.520 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)NC(C(=C)C)=O)F | C20H23FN2O3S
